US06596461B1
4) Preparation of 1-(2-hydroxyethyl)-3,3,4,5,5-pentamethylpiperazin-2-one
24.3 g (0.78 mol) of paraformaldehyde are added to a solution of 120 g (0.6 mol) of 1-(2-hydroxyethyl)-3,3,5,5-tetramethylpiperazin-2-one in 300 ml of tert-amyl alcohol. The mixture is then heated to 80° C. and 35.8 g (0.78 mol) of formic acid dissolved in 30 ml of tert-amyl alcohol are slowly added. Then, the mixture is maintained at 80° C. for further 1 hour and cooled to 50° C. Subsequently, 250 ml of toluene and 100 ml of water are added. The mixture is then stirred and 33 g (0.825 mol) of sodium hydroxide dissolved in 60 ml of water are slowly added. The organic phase is separated, washed with water, dried over anhydrous sodium sulfate, filtered and evaporated under vacuum (60° C./10 mbar). A white solid with a melting point of 77°-80° C. is obtained.

reactant | paraformaldehyde | 0.78 mol, 24.3 g | C=O | CH2O
reactant | 1-(2-hydroxyethyl)-3,3,5,5-tetramethylpiperazin-2-one | 0.6 mol, 120 g | OCCN1C(C(NC(C1)(C)C)(C)C)=O | C10H20N2O2
reactant | formic acid | 0.78 mol, 35.8 g | C(=O)O | CH2O2
reactant | sodium hydroxide | 0.825 mol, 33 g | [OH-].[Na+]
solvent | tert-amyl alcohol | 300 ml | C(C)(C)(CC)O | C5H12O
solvent | tert-amyl alcohol | 30 ml | C(C)(C)(CC)O | C5H12O
solvent | water | 60 ml | O | H2O
solvent | water | 100 ml | O | H2O
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-hydroxyethyl)-3,3,4,5,5-pentamethylpiperazin-2-one | OCCN1C(C(N(C(C1)(C)C)C)(C)C)=O | C11H22N2O2
